US07790709B2
To a solution of (1H-indol-7-ylmethyl)methylamine (103 mg, 0.6 mmol), (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid dihydrochloride (160 mg, 0.5 mmol), HOBt (81 mg, 0.5 mmol) and diisopropylethylamine (0.41 mL, 2 mmol) in DMF (12 mL) was added EDC hydrochloride (114 mg, 0.6 mmol). The mixture was stirred overnight at room temperature. Water (75 mL) was added and the solution stirred for 1 hr. The precipitate was collected by filtration and triturated with hexanes to afford (E)-N-(1H-indol-7-ylmethyl)-N-methyl-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylamide (155 mg, 79%) as a white solid and as a mixture of amide rotomers. 1H NMR (300 MHz, DMSO-d6) δ 10.78-11.23 (m, 1H), 10.34-10.30 (m, 1H), 8.54-8.45 (m, 1H), 8.14-8.00 (m, 1H), 7.64-7.27 (m, 4H), 6.99-6.75 (m, 2H), 6.47-6.45 (m, 1H), 5.10-4.82 (2×s, 2H), 3.79-3.71 (2×s, 2H), 3.42-3.38 (m, 2H), 3.15-2.95 (2×s, 3H), 2.36-2.31 (2×s, 3H); ESI MS m/z 390 [C22H23N5O2+H]+

reactant | (1H-indol-7-ylmethyl)methylamine | 0.6 mmol, 103 mg | N1C=CC2=CC=CC(=C12)CNC | C10H12N2
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid dihydrochloride | 0.5 mmol, 160 mg | Cl.Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | HOBt | 0.5 mmol, 81 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 2 mmol, 0.41 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EDC hydrochloride | 0.6 mmol, 114 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | Water | 75 mL | O | H2O
product | (E)-N-(1H-indol-7-ylmethyl)-N-methyl-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylamide | 155 mg, 79% | N1C=CC2=CC=CC(=C12)CN(C(\C=C\C1=CC2=C(NC(CN(C2)C)=O)N=C1)=O)C | C22H23N5O2
